US07732626B2
3-bromo-4-phenoxybenzaldehyde
To a solution of 3-bromo-4-fluorobenzaldehyde (2.03 g, 10.0 mmol) and phenol (0.941 g, 10.0 mmol) in N,N-dimethylformamide (10 mL) was added potassium carbonate (1.66 g, 12.0 mmol), and the mixture was stirred at 90° C. for 16 hr under nitrogen atmosphere. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=0:100-15:85) to give the title compound (2.27 g, yield 82%) as a pale-yellow oil.

reactant | 3-bromo-4-fluorobenzaldehyde | 10.0 mmol, 2.03 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | phenol | 10.0 mmol, 0.941 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 12.0 mmol, 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-bromo-4-phenoxybenzaldehyde | 2.27 g, yield 82% | BrC=1C=C(C=O)C=CC1OC1=CC=CC=C1 | C13H9BrO2
